US08222266B2
Preparation 24: 4-(2-Methyl-pyridin-3-yl)-2-methylsulfanyl-pyrimidine (Prep24)
To a solution of 4-iodo-2-methylsulfanyl-pyrimidine (600 mg, 2.38 mmol), 2-methylpyridine-3-boronic acid (533 mg, 3.09 mmol), Na2CO3 (756 mg, 7.14 mmol), triphenylphosphine (62 mg, 0.24 mmol) in nPrOH (10 ml), Pd(OAc)2 (16 mg, 0.07 mmol) was added and the mixture was stirred at 96° C. for 1.5 hours. The solvent was evaporated under vacuum, and the crude was dissolved in DCM and washed with water. The organic phase was dried (Na2SO4) and evaporated. A second batch of this compound was prepared according to the same protocol starting from 0.45 mmol of 4-iodo-2-methylsulfanyl-pyrimidine. The residues, deriving from the two batches, were purified by flash chromatography with DCM-MeOH—NH4OH (20-0.1-0.2) to give 568 mg of the title compound (92% yield).

reactant | 4-iodo-2-methylsulfanyl-pyrimidine | 2.38 mmol, 600 mg | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | 2-methylpyridine-3-boronic acid | 3.09 mmol, 533 mg | CC1=NC=CC=C1B(O)O | C6H8BNO2
reactant | Na2CO3 | 7.14 mmol, 756 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-iodo-2-methylsulfanyl-pyrimidine | 0.45 mmol | IC1=NC(=NC=C1)SC | C5H5IN2S
solvent | nPrOH | 10 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.07 mmol, 16 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | triphenylphosphine | 0.24 mmol, 62 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 4-(2-Methyl-pyridin-3-yl)-2-methylsulfanyl-pyrimidine | 568 mg, 92% yield | CC1=NC=CC=C1C1=NC(=NC=C1)SC | C11H11N3S
